US03992535
4-Hydroxy-2-methyl-N-(3-methyl-5-isothiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide was prepared analogous to Example 22 from 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide and 5-amino-3-methyl-isothiazole. Yield: 44% of theory; m.p. 268° C (decomp.; from ethylene chloride).

reactant | 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C15H13NO5S
reactant | 5-amino-3-methyl-isothiazole | NC1=CC(=NS1)C | C4H6N2S
solvent | ethylene chloride | C(CCl)Cl | C2H4Cl2
product | 4-Hydroxy-2-methyl-N-(3-methyl-5-isothiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | Yield: 44% | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC1=CC(=NS1)C | C18H15N3O4S2
